### PR TITLE
[Merged by Bors] - feat(Order/Category): partial orders with order embeddings as morphisms

### PR DESCRIPTION
**Pull request by joelriou**
This category will be relevant in the study of accessible categories. I am making Johan Commelin a co-author as the new file `PartOrdEmb.lean` is essentially a copy-paste of `PartOrd.Lean`.

Co-authored-by: Johan Commelin <johan@commelin.net>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Category/PartOrdEmb.lean [hunk 1]
```diff
@@ -0,0 +1,168 @@
...
+Copyright (c) 2025 Joël Riou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou, Johan Commelin
+-/
+import Mathlib.Order.Category.PartOrd
+
+/-!
+# Category of partial orders, with order embeddings as morphisms
+
+This defines `PartOrd`, the category of partial orders with order embeddings
```
Comment (joelriou) [inline Mathlib/Order/Category/PartOrdEmb.lean]:
```suggestion
This defines `PartOrdEmb`, the category of partial orders with order embeddings
```

File: Mathlib/Order/Category/PartOrdEmb.lean [hunk 2]
```diff
@@ -0,0 +1,168 @@
...
+
+lemma inv_hom_apply {X Y : PartOrdEmb} (e : X ≅ Y) (x : X) : e.inv (e.hom x) = x := by
+  simp
+
+lemma hom_inv_apply {X Y : PartOrdEmb} (e : X ≅ Y) (s : Y) : e.hom (e.inv s) = s := by
+  simp
+
+instance hasForgetToPartOrd : HasForget₂ PartOrdEmb PartOrd where
+  forget₂.obj X := .of X
+  forget₂.map f := PartOrd.ofHom f.hom
```
Comment (kim-em) [inline Mathlib/Order/Category/PartOrdEmb.lean:141]: Do we have the subcategory of monomorphisms somewhere? Can we identify this with that?

I'm happy for you to proceed if that either is too big a detour, or there's a reason you think it wouldn't be helpful.

bors d+

Comment (joelriou) [reply Mathlib/Order/Category/PartOrdEmb.lean:141]: Actually, monomorphisms correspond to injective maps, but there are some injective monotone maps between partial orders that are not order embeddings (consider the identity of `Fin 2` where there is the usual order on the target but in the source `0` and `1` are not comparable).

**Comment by joelriou** [comment]
Thanks!

bors merge
